US09108969B2
Step B: Preparation of 2-(7-(3,4-Diethoxybenzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid
tert-Butyl 2-(7-(3,4-diethoxybenzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate (173.1 mg) was taken up in dioxane (4 mL) and 1.0 M aqueous LiOH (1.11 mL) was added. The reaction was stirred at 70° C. 16 h, and stirred at 80° C. for an additional 5 h. The mixture was cooled to room temperature and poured into a separatory funnel containing EtOAc and 1.0 M HCl. The water layer was removed and the EtOAc layer was washed with water. The organics were dried over sodium sulfate, filtered, and concentrated under reduced pressure to give title compound (131.4 mg). LCMS m/z=410.4 [M+H]+; 1H NMR (400 MHz, CDCl3) δ ppm 1.28-1.34 (m, 6H), 2.15-2.26 (m, 1H), 2.54 (dd, J=16.3, 7.9 Hz, 1H), 2.68 (dd, J=16.3, 6.7 Hz, 1H), 2.72-2.82 (m, 1H), 3.53-3.62 (m, 1H), 3.91-4.93 (m, 6H), 4.95 (s, 2H), 6.0 (s, 1H), 6.73 (dd, J=8.7, 2.4 Hz, 1H), 6.90-6.96 (m, 2H), 7.02-7.06 (m, 2H), 7.17 (d, J=9.0 Hz, 1H), 12.3 (bs, 1H).

reactant | tert-Butyl 2-(7-(3,4-diethoxybenzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 173.1 mg | C(C)OC=1C=C(COC2=CC=3C=C4N(C3C=C2)CCC4CC(=O)OC(C)(C)C)C=CC1OCC | C28H35NO5
reactant | LiOH | 1.0 M, 1.11 mL | [Li+].[OH-]
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | HCl | 1.0 M | Cl | ClH
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 2-(7-(3,4-Diethoxybenzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid | 131.4 mg | C(C)OC=1C=C(COC2=CC=3C=C4N(C3C=C2)CCC4CC(=O)O)C=CC1OCC | C24H27NO5
